US08071592B2
(j) cis-1-{2-[(3RS,5RS)-3-(Aminomethyl)-5-hydroxy-1-piperidinyl]ethyl}-7-fluoro-2(1H)-quinolinone-hydrochloride
To cis-1,I-dimethylethyl ({(3RS,5RS)-5-{[(1,1-dimethylethyl)(dimethyl)silyl]oxy}-1-[2-(7-fluoro-2-oxo-1(2H)-quinolinyl)ethyl]-3-piperidinyl}methyl)carbamate (410 mg; 0.78 mmol) in DCM (9 ml) and MeOH (1 ml) was added 4N HCl in 1,4-dioxane (1 ml; 4.0 mmol) and the reaction was allowed to stir at room temperature under nitrogen for 2 hours. The reaction was concentrated under reduced pressure to give the desired compound (270 mg; 100%) as a yellow solid which was used in the next reaction without further purification.

reactant | cis-1,I-dimethylethyl ({(3RS,5RS)-5-{[(1,1-dimethylethyl)(dimethyl)silyl]oxy}-1-[2-(7-fluoro-2-oxo-1(2H)-quinolinyl)ethyl]-3-piperidinyl}methyl)carbamate | 0.78 mmol, 410 mg | CC(C)(C)[Si](O[C@@H]1C[C@@H](CN(C1)CCN1C(C=CC2=CC=C(C=C12)F)=O)CNC(OC(C)(C)C)=O)(C)C | C28H44FN3O4Si
reactant | HCl | 4N | Cl | ClH
reactant | 1,4-dioxane | 4.0 mmol, 1 ml | O1CCOCC1 | C4H8O2
solvent | DCM | 9 ml | C(Cl)Cl | CH2Cl2
solvent | MeOH | 1 ml | CO | CH4O
product | cis-1-{2-[(3RS,5RS)-3-(Aminomethyl)-5-hydroxy-1-piperidinyl]ethyl}-7-fluoro-2(1H)-quinolinone-hydrochloride | 270 mg, 100% | Cl.NC[C@@H]1CN(C[C@@H](C1)O)CCN1C(C=CC2=CC=C(C=C12)F)=O | InChI=1S/C17H22FN3O2.ClH/c18-14-3-1-13-2-4-17(23)21(16(13)8-14)6-5-20-10-12(9-19)7-15(22)11-20;/h1-4,8,12,15,22H,5-7,9-11,19H2;1H/t12-,15-;/m1./s1
